US07256215B2
A solution of 1.499 g of ethyl[4-[2-[2-hydroxy-5-(N-hydroxycarbamimidoyl)benzenesulfonylamino]ethyl]-2′-methane sulfonylbiphenyl-3-yloxy]acetate in 20 mL of 34% hydrogen chloride/n-butanol solution was stirred at 60° C. for 3 hours. The reaction mixture was concentrated under a reduced pressure, and the crude crystals were recrystallized from n-butanol/diisopropyl ether to give 1.472 g of n-butyl [4-[2-[2-hydroxy-5-(N-hydroxycarbamimidoyl)benzenesulfonyl amino]ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate hydrochloride as a white crystal. The crystals thus obtained were identified as crystalline form A by an X-ray powder diffraction analysis. An X-ray powder diffraction pattern of the crystals was shown in FIG. 3.

reactant | ethyl[4-[2-[2-hydroxy-5-(N-hydroxycarbamimidoyl)benzenesulfonylamino]ethyl]-2′-methane sulfonylbiphenyl-3-yloxy]acetate | 1.499 g | C(C)OC(COC=1C=C(C=CC1CCNS(=O)(=O)C1=C(C=CC(=C1)C(NO)=N)O)C1=C(C=CC=C1)S(=O)(=O)C)=O | C26H29N3O9S2
reactant | hydrogen chloride n-butanol | 20 mL | Cl.C(CCC)O
product | n-butyl [4-[2-[2-hydroxy-5-(N-hydroxycarbamimidoyl)benzenesulfonyl amino]ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate hydrochloride | 1.472 g | Cl.OC1=C(C=C(C=C1)C(NO)=N)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCC(=O)OCCCC | InChI=1S/C28H33N3O9S2.ClH/c1-3-4-15-39-27(33)18-40-24-16-20(22-7-5-6-8-25(22)41(2,35)36)10-9-19(24)13-14-30-42(37,38)26-17-21(28(29)31-34)11-12-23(26)32;/h5-12,16-17,30,32,34H,3-4,13-15,18H2,1-2H3,(H2,29,31);1H
